US06207708B1
2-Amino-5-[[1-(hydroxyimino)ethyl]amino]-2-methylpentanoic Acid, Dihydrochloride
α-Methyl-D,L-ornithine hydrochloride is protected as a copper complex via reaction with cupric carbonate in water at reflux. This protected amino acid is then reacted with chloroacetaldoxime as in Example 1. The product is eluted from Dowex with 1N ammonium hydroxide. Concentration in vacuo, followed by acidification with hydrochloric acid affords the title compound.

reactant | α-Methyl-D,L-ornithine hydrochloride | Cl.CC(N)(CCCN)C(=O)O
reactant | chloroacetaldoxime | ClCC=NO | C2H4ClNO
solvent | water | O | H2O
product | 2-Amino-5-[[1-(hydroxyimino)ethyl]amino]-2-methylpentanoic Acid, Dihydrochloride | Cl.Cl.NC(C(=O)O)(CCCNC(C)=NO)C | InChI=1S/C8H17N3O3.2ClH/c1-6(11-14)10-5-3-4-8(2,9)7(12)13;;/h14H,3-5,9H2,1-2H3,(H,10,11)(H,12,13);2*1H
